US05789406
A few drops of dimethylformamide and then, dropwise, 2.8 ml of thionyl chloride are added to 5 g of 4-phenylbutyric acid, in solution in 60 ml of anhydrous dichloromethane, at a temperature in the region of 20° C. After reacting overnight at the same temperature, the reaction mixture is concentrated to dryness under reduced pressure. The chloride of 4-phenylbutyric acid thus prepared is added dropwise to 1 g of 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one, in solution in 75 ml of dimethylformamide, at a temperature in the region of 20° C. The reaction mixture is heated at reflux for 7 hours. The precipitate formed is filtered and recrystallized from dimethylformamide. After filtration, washing with water and then ethyl ether and drying under partial vacuum (1 mm Hg, 0.13 kPa) at 80° C., there is obtained 0.64 g of 8-(4-phenylbutyrylamino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one in the form of an ochre solid which decomposes at 190° C. (Analysis C23H20N4O2.0.63H2O.0.79DMF, % calculated C: 71.86, H: 5.24, N: 14.57, % found C: 71.5, H: 5.1, N: 14.8).

reactant | thionyl chloride | 2.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-phenylbutyric acid | 5 g | C1(=CC=CC=C1)CCCC(=O)O | C10H12O2
reactant | 8-amino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | 1 g | NC1=CC=2CC3=C(NC(C=4N3C=CN4)=O)C2C=C1 | C13H10N4O
reactant | dimethylformamide | A few drops | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-phenylbutyrylamino-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-4-one | C1(=CC=CC=C1)CCCC(=O)NC1=CN=C2N1C1=C(NC2=O)C=2C=CC=CC2C1 | C23H20N4O2
